US04179502
In 4 ml of acetic acid there was dissolved 0.37 g of benzhydryl 7-(4-bromo-3-oxobutyrylamino)-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate and, under ice-cooling and stirring, a solution of 0.048 g of sodium nitrite in 0.4 ml of water was added dropwise. After this dropwise addition, the mixture was stirred at room temperature for one hour. Then, 20 ml of a saturated aqueous solution of sodium chloride were added and extraction was carried out with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was evaporated off under reduced pressure and the residue was loosened up with a solvent mixture of petroleum ether and ether (2:1 volume/volume). The resultant powder was recovered by filtration and dried. By the above procedure there was obtained 0.345 g of benzhydryl 7-(4-bromo-3-oxo-2-hydroxyiminobutyrylamino)-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate-(syn-isomer).

reactant | benzhydryl 7-(4-bromo-3-oxobutyrylamino)-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate | 0.37 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)NC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C28H24BrN5O6S2
reactant | sodium nitrite | 0.048 g | N(=O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.4 ml | O | H2O
product | benzhydryl 7-(4-bromo-3-oxo-2-hydroxyiminobutyrylamino)-3-(5-acetylamino-1,3,4-thiadiazol-2-yl)-3-cephem-4-carboxylate | 0.345 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC(=NN2)NC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NO)=O | C28H23BrN6O7S2
